US06248740B1
To 10 ml of N,N-dimethylformamide, 0.16 g of a 60% dispersion of sodium hydride in mineral oil and 1.30 g of 4-(diphenylmethoxy)-1-piperidinepropanol were added, followed by stirring at room temperature under reduced pressure for 1 hour. While the reaction mixture was cooled with ice water, 1.31 g of isopropyl 2-(6-chloro-7methylimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate was added, followed by stirring at room temperature for 1.5 hours. To the reaction mixture, ice water was added, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with hexane:ethyl acetate (1:5). The desired fraction was collected to yield 582 mg of isopropyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-7-methylimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate as an oily substance. This oily substance was dissolved in 4 ml of ethanol; 2 ml of a 1 N aqueous solution of sodium hydroxide was added and reaction mixture was heated under reflux for 7 hours. After cooling, reaction mixture was concentrated under reduced pressure followed by extraction with ethyl acetate-tetrahydrofuran (1:1); the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was crystallized by the addition of a small amount of water and ethyl ether, collected by filtration, washed with ethyl ether and dried to yield 0.413 g of the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 1.30 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | isopropyl 2-(6-chloro-7methylimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 1.31 g | ClC=1C(=CC=2N(N1)C=C(N2)C(C(=O)OC(C)C)(C)C)C | C14H18ClN3O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | isopropyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-7-methylimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 582 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C(=CC=2N(N1)C=C(N2)C(C(=O)OC(C)C)(C)C)C)C2=CC=CC=C2 | C35H44N4O4
